US05576335
To a solution of 4-methoxy-2-nitroaniline (15.0 g) and diisopropylamine (16.2 ml) in dichloromethane (300 ml) was added dropwise under ice-cooling a solution of phenylchloroformate (16.8 g) in dichloromethane (30 ml). The reaction solution was stirred at room temperature overnight, washed with water and saturated saline and dried over anhydrous MgSO4. The solvent was distilled off. Crystallization of the residue from hexane gave phenyl 4-methoxy-2-nitrophenylcarbamate (12.6 g, 49.1%) as crystals.

reactant | 4-methoxy-2-nitroaniline | 15.0 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | diisopropylamine | 16.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | phenylchloroformate | 16.8 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | phenyl 4-methoxy-2-nitrophenylcarbamate | 12.6 g, 49.1% | COC1=CC(=C(C=C1)NC(OC1=CC=CC=C1)=O)[N+](=O)[O-] | C14H12N2O5
